US05292732
3',4'-Dichloro-3-(1,3-dioxolan-2-yl)propiophenone (10.0 g) was dissolved in 20 ml of acetic acid and added under argon and while stirring to a solution of 7.4 g of N-acetylethylenediamine in 80 ml of acetic acid. The reaction mixture was heated to reflux overnight, the acetic acid was subsequently removed in a vacuum. The residue was taken up in 200 ml of methylene chloride and washed with a mixture of 100 ml of saturated sodium hydrogen carbonate solution and 100 ml of 2N sodium hydroxide solution. The aqueous phase was back-extracted twice with 100 ml of methylene chloride each time, the organic phases were combined, dried with MgSO4 and freed from solvent. The residue, 12.5 g of dark brown oil were chromatographed on 500 g of silica gel with ethyl acetate as the eluent. 9.1 g (84%) of N-[2-[2-(3,4-dichlorophenyl)-pyrrol-1-yl]ethyl]acetamide were isolated as a yellow-brown oil. MS: m/e=296, 298, 300 (9:6:1, M+).

reactant | 3',4'-Dichloro-3-(1,3-dioxolan-2-yl)propiophenone | 10.0 g | ClC=1C=C(C=CC1Cl)C(CCC1OCCO1)=O | C12H12Cl2O3
reactant | N-acetylethylenediamine | 7.4 g | C(C)(=O)NCCN | C4H10N2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | N-[2-[2-(3,4-dichlorophenyl)-pyrrol-1-yl]ethyl]acetamide | 9.1 g, 84% | ClC=1C=C(C=CC1Cl)C=1N(C=CC1)CCNC(C)=O | C14H14Cl2N2O
